US08207164B2
a) 1-(3-Bromo-5-nitro-phenyl)-ethanol
A solution of TiCl4 (9.48 g, 50 mmol) and methylmagnesiumbromide (20.80 ml, 52 mmol, 2.5 M solution in THF) in THF (400 ml) was stirred at −30° C. when 3-bromo-5-nitro-benzaldehyde (9.20 g, 40 mmol) was added as solid. The mixture was stirred for 1 h at −30° C. As the reaction was not complete, the reaction was cooled to −78° C. and 0.65 eq. methylmagnesium bromide and 0.625 eq. TiCl4 were added and stirring was continued at −30° C. This procedure was repeated again to add 0.325 eq. methylmagnesium bromide and 0.313 eq. TiCl4. After complete conversion the reaction was cooled to −78° C. and quenched by addition of 500 ml cold water. 500 ml dichloromethane were added and the reaction was allowed to warm to r.t. The phases were separated and the aqueous phase was extracted twice with dichloromethane. The organic phases were washed with water and brine, combined and dried over Na2SO4. Volatiles were removed under reduced pressure. The crude product was purified by automated column chromatography (cyclohexane/ethyl acetate) yielding the title compound as yellowish oil. 1H-NMR (360 MHz, CDCl3): 8.20 (s, 1H), 8.10 (s, 1H), 7.78 (s, 1H), 4.95 (q, 1H), 1.45 (d, 3H).

reactant | methylmagnesiumbromide | 52 mmol, 2.5 M, 20.80 ml | C[Mg]Br
reactant | 3-bromo-5-nitro-benzaldehyde | 40 mmol, 9.20 g | BrC=1C=C(C=O)C=C(C1)[N+](=O)[O-] | C7H4BrNO3
reactant | methylmagnesium bromide | 0.65 eq. | C[Mg]Br
reactant | methylmagnesium bromide | 0.325 eq. | C[Mg]Br
solvent | THF | 400 ml | C1CCOC1 | C4H8O
catalyst | TiCl4 | 50 mmol, 9.48 g | Cl[Ti](Cl)(Cl)Cl
product | 1-(3-Bromo-5-nitro-phenyl)-ethanol | BrC=1C=C(C=C(C1)[N+](=O)[O-])C(C)O | C8H8BrNO3
